US08735424B2
An oven dried 250 mL 3 neck r.b.f. equipped with an internal thermometer was charged with diethyl ether (180 mL) and titanium tetrachloride, 1.0 M in dichloromethane (20.5 mL, 20.5 mmoles) under an Argon atmosphere. The solution was cooled in a CO2(a)/acetone −78° C. bath and methyl lithium, 1.6 M in diethyl ether (12.8 mL, 20.5 mmoles) was added via a syringe at a rate such that the internal temperature was </=−50° C. The resultant anion solution was stirred at −50° C. for 1 hour, at which time 2-chloro-5-nitroisonicotinaldehyde (2.54 g, 13.66 mmoles) in diethyl ether (16+4 mL) was added via syringe with the internal temp </=−50° C. After stirring for an additional hour at −50° C., the reaction was poured into H2O (500 mL), and after mixing two light yellow layers formed. Diethyl ether was added (500 mL), the layers were separated, and the organic was washed with H2O (250 mL), with NaCl(sat.) (250 mL), dried over MgSO4, filtered and concentrated yielding 1-(2-chloro-5-nitropyridin-4-yl)ethanol (2.76 g, 100% yield). LCMS (m/z): 203.0 (MH+); LC Rt=2.42 min. 1H NMR (CDCl3): δ 8.99 (s, 1H), 7.88 (s, 1H), 5.52 (m, 1H), 1.56 (d, J=9.0, 3H).

reactant | dichloromethane | 20.5 mmoles, 20.5 mL | ClCCl | CH2Cl2
reactant | methyl lithium | C[Li]
reactant | 2-chloro-5-nitroisonicotinaldehyde | 13.66 mmoles, 2.54 g | ClC=1C=C(C=O)C(=CN1)[N+](=O)[O-] | C6H3ClN2O3
reactant | H2O | 500 mL | O | H2O
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | diethyl ether | 20.5 mmoles, 12.8 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 180 mL | C(C)OCC | C4H10O
product | 1-(2-chloro-5-nitropyridin-4-yl)ethanol | 2.76 g, 100% yield | ClC1=NC=C(C(=C1)C(C)O)[N+](=O)[O-] | C7H7ClN2O3
